US03943141
1. 7-Ethoxy-1-ethyl-1,4-dihydro-4-oxo-N(1H-tetrazol-5-yl)-1,8-naphthyridine-3-carboxamide
7-Ethoxy-1-ethyl-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid (2.0 g) and N,N'-carbonyldiimidazole (1.85 g) in dimethylformamide (40 ml) were stirred and heated to 100° for 7 hours. 5-Amino-1H-tetrazole (1.3 g) was added and the mixture heated at 100° for 1 hour and cooled. The solid was collected and dissolved in hot aqueous dimethylaminoethanol (20 ml, 5%). The hot solution was acidified with hydrochloric acid and the solid was filtered off, washed with water and dried, m.p. above 307° (d), (61 %).

reactant | 7-Ethoxy-1-ethyl-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 2.0 g | C(C)OC1=CC=C2C(C(=CN(C2=N1)CC)C(=O)O)=O | C13H14N2O4
reactant | 5-Amino-1H-tetrazole | 1.3 g | NC1=NN=NN1 | CH3N5
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 7-Ethoxy-1-ethyl-1,4-dihydro-4-oxo-N(1H-tetrazol-5-yl)-1,8-naphthyridine-3-carboxamide | C(C)OC1=CC=C2C(C(=CN(C2=N1)CC)C(=O)NC1=NN=NN1)=O | C14H15N7O3
